US04863931
To a solution of compound 3-[2-(3-chlorophenyl) ethyl]-2-pyridinecarbonitrile (118 g; 0.49 mol) in 1.2 L of dry THF was added 395 mL (2.48 N; 0.59 mol) of N-methyl-piperidyl magnesium chloride over 0.5 h while the temperature was maintained at 40°-50° C. by cooling with water as necessary. The reaction mixture was maintained at 40°-50° C. for an additional 0.5 h. The reaction was quenched to below pH 2 by the addition of 2N hydrochloric acid and the resulting solution was stirred at 25°-30° C. for 1 h. The bulk of the THF was removed by distillation and the pH of the solution adjusted to 3.5 by the addition of aqueous sodium hydroxide. The mixture was cooled to 5° C. and the product was collected by filtration, washed with cold water and dried under vacuum at 60° C. to give 168 g (91%) of [3-[2-(3-chlorophenyl) ethyl]-2-pyridinyl]-1-methyl-4-piperidinyl methanone hydrochloride as a crystalline solid: mp 183°-185° C.; NMR (200 MHz, DMSO)δ2.72 (s,3H), 2.8-2.9 (m,2H) 3.0-3.2 (m,4H), 3.3-3.5 (m,3H), 3.9-4.1 (m, 1H), 7.2-7.3 (m,1H), 7.3-7.4 (m,3H), 7.57 (dd,1H,J=6, 4Hz), 7.84 (dd,1H, J=6, 1.2 Hz), 8.59 (dd,1H,J=4, 1.2 Hz), 10.95 (br s, 1H); mass spectrum m/e (rel intensity) 345M+2 (32), 343M+ (100). Anal. Calcd for C20H24N2OCl2 : C,63.32; H,6.38; N,7.39; Cl,18.69. Found: C,63.45; H,6.47; N,7.40; Cl, 18.49.

reactant | 3-[2-(3-chlorophenyl) ethyl]-2-pyridinecarbonitrile | 0.49 mol, 118 g | ClC=1C=C(C=CC1)CCC=1C(=NC=CC1)C#N | C14H11ClN2
reactant | N-methyl-piperidyl magnesium chloride | 0.59 mol, 2.48 N, 395 mL | CN1C(CCCC1)[Mg]Cl
reactant | water | O | H2O
solvent | THF | 1.2 L | C1CCOC1 | C4H8O
product | [3-[2-(3-chlorophenyl) ethyl]-2-pyridinyl]-1-methyl-4-piperidinyl methanone hydrochloride | 168 g, 91% | Cl.ClC=1C=C(C=CC1)CCC=1C(=NC=CC1)C(=O)C1CCN(CC1)C | InChI=1S/C20H23ClN2O.ClH/c1-23-12-9-17(10-13-23)20(24)19-16(5-3-11-22-19)8-7-15-4-2-6-18(21)14-15;/h2-6,11,14,17H,7-10,12-13H2,1H3;1H
